US07371753B2
b) 1-(3-methoxy-4-nitro-phenyl)-4-pyrrolidin-1-yl-piperidine
200 mg (1.170 mmol) 4-fluoro-2-methoxy-1-nitro-benzene are dissolvedjin 1 ml NMP, combined with 198 mg (1.284 mmol) 4-pyrrolidin-1-yl-piperidine and 300 μl diisopropylethylamine and stirred for 17 h at 80° C. Then the solvent is eliminated in vacuo. The crude product is purified by column chromatography. The carrier material used is C18-RP gel and a gradient is run through which consists of 95% water and 5% acetonitrile at the starting point and 5% water and 95% acetonitrile at the finishing point.

reactant | 4-fluoro-2-methoxy-1-nitro-benzene | 1.170 mmol, 200 mg | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | 4-pyrrolidin-1-yl-piperidine | 1.284 mmol, 198 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | diisopropylethylamine | 300 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 1-(3-methoxy-4-nitro-phenyl)-4-pyrrolidin-1-yl-piperidine | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N1CCCC1 | C16H23N3O3
